US08030337B2
4-(Benzyloxy)pentanoic Acid
To a solution of 4-(benzyloxy)pentan-1-ol (350 mg, 1.80 mmol) in acetone (20 mL) was added Jones reagent (1.9M, 1.9 mL, 3.6 mmol) under ice-cooling, and the mixture was stirred for 30 min. Sodium sulfite was added to the reaction solution, and the solvent was evaporated under reduced pressure. The residual aqueous solution was washed with ethyl acetate, acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→40/60) to give the title compound (236 mg, yield 63%).

reactant | 4-(benzyloxy)pentan-1-ol | 1.80 mmol, 350 mg | C(C1=CC=CC=C1)OC(CCCO)C | C12H18O2
reactant | Jones reagent | 3.6 mmol, 1.9M, 1.9 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-(Benzyloxy)pentanoic Acid | 236 mg, yield 63% | C(C1=CC=CC=C1)OC(CCC(=O)O)C | C12H16O3
